US04518597
6-(4-Methylsulfinyl-butoxy)-4,4-dimethyl-4H-3,1-benzoxazin-2-one
Prepared analogously to Example 2 from 6-(4-methylmercapto-butoxy)-4,4-dimethyl-4H-3,1-benzoxazin-2-one and hydrogen peroxide.

reactant | 6-(4-methylmercapto-butoxy)-4,4-dimethyl-4H-3,1-benzoxazin-2-one | CSCCCCOC=1C=CC2=C(C(OC(N2)=O)(C)C)C1 | C15H21NO3S
reactant | hydrogen peroxide | OO | H2O2
product | 6-(4-Methylsulfinyl-butoxy)-4,4-dimethyl-4H-3,1-benzoxazin-2-one | CS(=O)CCCCOC=1C=CC2=C(C(OC(N2)=O)(C)C)C1 | C15H21NO4S
